US05086055
5-[2-[4-(2-chlorophenyl)-1-piperazinyl]ethyl]-3-methyl-2-oxazolidinone
This compound was prepared according to the procedure of Example 2. A mixture of 5.5 g (0.028 mol) of 1-(2-chlorophenyl)piperazine (Aldrich), 4.6 g (0.028 mol) of 5-(2-chloroethyl)-3-methyl-2-oxazolidinone, 8.9 g (0.08 mol) of anhydrous sodium carbonate and 0.4 g of potassium iodide in 150 mL of 1-butanol gave 6.8 g (75%) of off-white solid, mp 79.5°-81.5° C. (2-propanol).

reactant | 1-(2-chlorophenyl)piperazine | 0.028 mol, 5.5 g | ClC1=C(C=CC=C1)N1CCNCC1 | C10H13ClN2
reactant | 5-(2-chloroethyl)-3-methyl-2-oxazolidinone | 0.028 mol, 4.6 g | ClCCC1CN(C(O1)=O)C | C6H10ClNO2
reactant | sodium carbonate | 0.08 mol, 8.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.4 g | [I-].[K+]
solvent | 1-butanol | 150 mL | C(CCC)O | C4H10O
solvent | 2-propanol | CC(C)O | C3H8O
product | 5-[2-[4-(2-chlorophenyl)-1-piperazinyl]ethyl]-3-methyl-2-oxazolidinone | 6.8 g, 75% | ClC1=C(C=CC=C1)N1CCN(CC1)CCC1CN(C(O1)=O)C | C16H22ClN3O2
